US07199120B2
4-Iodo-2-(methylsulfanyl)pyrimidine (1.76 g, 7.1 mmol) was dissolved in anhydrous tetrahydrofuran (50 mL). To this solution was added triethylamine (1.2 mL, 8.5 mmol), copper (I) iodide (70 mg, 0.4 mmol) and dichlorobis(triphenylphosphine)palladium (II) (150 mg, 0.21 mmol). A solution of 4-ethynyl-2-(methylsulfanyl)pyrimidine (1.0 g, 7.1 mmol) in tetrahydrofuran was added dropwise. The reaction mixture was stirred at room temperature overnight Ethyl acetate and water were added to the reaction mixture. The phases were separated and the aqueous phase extracted with additional ethyl acetate. The organics were combined, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (1:1 ethyl acetate:hexane) gave 1.35 g (69%) of 2-(methylsulfanyl)-4-{[2-(methylsulfanyl)-4-pyrimidinyl]ethynyl}pyrimidine as a white solid. 1H NMR (CDCl3): δ 8.57 (d, 2H), 7.19 (d, 2H), 2.59 (s, 6H); MS m/z 275 (M+1).

reactant | 4-Iodo-2-(methylsulfanyl)pyrimidine | 7.1 mmol, 1.76 g | IC1=NC(=NC=C1)SC | C5H5IN2S
reactant | triethylamine | 8.5 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | 4-ethynyl-2-(methylsulfanyl)pyrimidine | 7.1 mmol, 1.0 g | C(#C)C1=NC(=NC=C1)SC | C7H6N2S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | copper (I) iodide | 0.4 mmol, 70 mg | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium | 0.21 mmol, 150 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
product | 2-(methylsulfanyl)-4-{[2-(methylsulfanyl)-4-pyrimidinyl]ethynyl}pyrimidine | 1.35 g, 69% | CSC1=NC=CC(=N1)C#CC1=NC(=NC=C1)SC | C12H10N4S2
